US07705027B2
Sodium (2.8 eq) was added to ethanol under nitrogen at room temperature and stirred for 25 minutes to generate sodium ethoxide. 1-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-ethanone (1 eq) was dissolved in further ethanol and added to the sodium ethoxide solution. Diethyl oxalate (1.64 eq) was added and the reaction mixture heated to reflux for 4 hours. The mixture was allowed to cool to room temperature and enough 1MHCl (aq) was added to acidify the reaction mixture, which was then concentrated in vacuo. The resulting gum was partitioned between dichloromethane and brine, and the organic phase was dried over MgSO4, filtered and evaporated in vacuo to give 4-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-2-hydroxy-4-oxo-but-2-enoic acid ethyl ester as a yellow gum.

reactant | Sodium | 2.8 eq | [Na] | Na
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 1-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-ethanone | 1 eq | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)C)C(C)=O | C25H26O3
reactant | Diethyl oxalate | 1.64 eq | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | C(C)O | C2H6O
product | 4-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-2-hydroxy-4-oxo-but-2-enoic acid ethyl ester | C(C)OC(C(=CC(=O)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1)O)=O | C29H30O6
